US08957089B2
1-[1-(4-Chlorophenyl)cyclobutyl]-7-[3-(morpholin-4-ylsulfonyl)propoxy]-1,2,3,4-tetrahydroisoquinoline hydrochloride
The compound was prepared analogously to example 82 from 3-({1-[1-(4-chlorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)propane-1-sulfonyl chloride using morpholine in place of 1-propylamine.

reactant | 3-({1-[1-(4-chlorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)propane-1-sulfonyl chloride | ClC1=CC=C(C=C1)C1(CCC1)C1=NCCC2=CC=C(C=C12)OCCCS(=O)(=O)Cl | C22H23Cl2NO3S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 1-[1-(4-Chlorophenyl)cyclobutyl]-7-[3-(morpholin-4-ylsulfonyl)propoxy]-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.ClC1=CC=C(C=C1)C1(CCC1)C1NCCC2=CC=C(C=C12)OCCCS(=O)(=O)N1CCOCC1 | InChI=1S/C26H33ClN2O4S.ClH/c27-22-6-4-21(5-7-22)26(10-1-11-26)25-24-19-23(8-3-20(24)9-12-28-25)33-15-2-18-34(30,31)29-13-16-32-17-14-29;/h3-8,19,25,28H,1-2,9-18H2;1H
